US03974284
An amount of 3.6 g (0.055 mole) of zinc chips and a trace of iodine are placed into a dry reaction vessel; additions are then made of 2 ml of a solution of 7.0 g (0.03 mole) of 1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cyclohepten-11-one and 7.1 g (0.039 mole) of N,N-dimethyl-bromoacetamide in 50 ml of abs. benzene, and the whole is refluxed while stirring is maintained; the remainder of the benzene solution is added dropwise in the course of 30 minutes and refluxing subsequently performed for a further hour. After cooling, the reaction mixture is decomposed with 6 ml of glacial acetic acid and 6 ml of methanol. The formed organic precipitate is taken into solution by the addition of benzene and zinc residues still present are filtered off. The benzene solution is washed with 2N acetic acid, then with 2N sodium bicarbonate solution and finally with water; it is then dried over sodium sulphate and concentrated in a water-jet vacuum. The residue crystallises from benzene/petroleum ether to yield N,N-dimethyl-11-hydroxy-1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e] cyclopropa[c]cycloheptene-11-acetamide; M.P. 203°-204°.

reactant | iodine | II | I2
reactant | 1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cyclohepten-11-one | 0.03 mole, 7.0 g | C12C3C4=C(C(C5=C(C31)C=CC=C5)C2=O)C=CC=C4 | C17H12O
reactant | N,N-dimethyl-bromoacetamide | 0.039 mole, 7.1 g | CN(C(CBr)=O)C | C4H8BrNO
catalyst | zinc | 0.055 mole, 3.6 g | [Zn] | Zn
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | methanol | 6 ml | CO | CH4O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-11-hydroxy-1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e] cyclopropa[c]cycloheptene-11-acetamide | CN(C(CC1(C2C3C4=C(C1C1=C(C32)C=CC=C1)C=CC=C4)O)=O)C | C21H21NO2
